US07507734B2
b) 1-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-ethanone
To a solution of 0.91 g 1-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-ethanol in 10 ml CH2Cl2 is added a suspension of 1.70 g Dess-Martin Periodane in 10 ml CH2Cl2 at room temperature. After being stirred for 3 h, the suspension is extracted with 5% aq. Na2S2O3 solution. The organic layer is washed with water, dried over MgSO4 and concentrated in vacuo. The residue is purified by chromatography to give 0.83 g (92%) of the desired product as a yellow solid.

reactant | 1-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-ethanol | 0.91 g | COC=1N=NC(=CC1C(C)O)C1=CC=NC=C1 | C12H13N3O2
reactant | Dess-Martin Periodane | 1.70 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-ethanone | 0.83 g, 92% | COC=1N=NC(=CC1C(C)=O)C1=CC=NC=C1 | C12H11N3O2
